US05846982
2-(3-chlorophenylthio)acetaldehyde diethyl acetal
To a stirring mixture of 20.0 gm (0.138 mol) 3-chlorothiophenol and 21.0 gm (0.15 mol) potassium carbonate in 220 mL acetone were added dropwise 1.1 equivalents of bromoacetaldehyde diethyl acetal. After stirring for 17 hours at ambient temperature, the reaction mixture was filtered and the filtrate concentrated under reduced pressure. The resulting residue was partitioned between diethyl ether and water. The organic phase was separated, washed with saturated sodium chloride, dried over sodium sulfate and concentrated under reduced pressure to give 35.1 gm (97%) of the desired. compound as a rust colored oil.

reactant | 3-chlorothiophenol | 0.138 mol, 20.0 gm | ClC=1C=C(C=CC1)S | C6H5ClS
reactant | potassium carbonate | 0.15 mol, 21.0 gm | C([O-])([O-])=O.[K+].[K+]
reactant | bromoacetaldehyde diethyl acetal | 1.1 equivalents | C(C)OC(CBr)OCC | C6H13BrO2
solvent | acetone | 220 mL | CC(=O)C | C3H6O
product | 2-(3-chlorophenylthio)acetaldehyde diethyl acetal | C(C)OC(CSC1=CC(=CC=C1)Cl)OCC | C12H17ClO2S
